2160-10-11 05:46:00 Physician Resident Progress Note
Chief Complaint: Weakness, dysarthria
   24 Hour Events:
   No events overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-10-11**] 05:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.7
C (96.3
   HR: 78 (56 - 78) bpm
   BP: 200/73(102) {137/44(68) - 219/86(111)} mmHg
   RR: 28 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SA (Sinus Arrhythmia)
             Total In:
                                                                  1,000 mL
                                                                     58 mL
   PO:
             TF:
   IVF:
                                                                  1,000 mL
                                                                     58 mL
   Blood products:
   Total out:
                                                                    840 mL
                                                                    145 mL
   Urine:
                                                                    840 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    160 mL
                                                                    -88 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   283 K/uL
   10.7 g/dL
   100 mg/dL
   0.9 mg/dL
   28 mEq/L
   4.1 mEq/L
   14 mg/dL
   99 mEq/L
   137 mEq/L
   33.7 %
   11.2 K/uL
        [image002.jpg]
                            [**2160-10-10**]  10:13 PM
                            [**2160-10-11**]  03:58 AM
   WBC
   11.2
   Hct
   33.7
   Plt
   283
   Cr
   0.9
   TropT
   0.10
   0.08
   Glucose
   100
   Other labs: PT / PTT / INR:12.1/26.8/1.0, CK / CKMB /
   Troponin-T:88/7/0.08, Differential-Neuts:57.1 %, Lymph:37.3 %, Mono:3.7
   %, Eos:1.6 %, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 CVA (STROKE, CEREBRAL INFARCTION), OTHER
 .H/O PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   [**Age over 90 **] yo F with a history of multiple TIAs on aggrenox presents from
   weakness with L sided numbness, weakness, dysarthria that has since
   resolved, also with hypoxia and leukocytosis.
   .
   .
   1. L sided numbness, weakness, and dysarthria: Patient currently does
   not have these symptoms and has a normal neuro exam.  Concerning for
   TIA, especially given multiple TIAs, most recently 1 month ago. Patient
   is already on aggrenox for this. On last hospitalization, Carotid US on
   [**2160-9-18**] showed <40% stenosis bilaterally. Differential also includes
   stroke, which is less likely given no residual deficits, meningitis,
   hypothyroidism, and seizures.
   -follow up with neurology in AM regarding recurring TIA while on
   aggrenox
   -consider MRI/MRA in AM
   -Patient has no Echo in our system. Consider Echo in the AM to rule out
   PFO.
   -continue aggrenox per outpatient regimen
   -obtain fasting lipid panel and HgbA1C
   -allow autoregulation of BP with goal SBP < 185
   -labetalol PRN SBP>185
   -hold lisinopril. Consider restarting in the AM.
   -Continue Vanc, Ceftriaxone tonight
   -consider EEG in AM
   -continue Simvastatin per outpatient regimen
   -obtain TSH, Vit B12
   2. Leukocytosis: WBC 17.1. Afebrile currently. WBC on discharge from
   last hospitalization was 14.4.  No focal signs of infection. However
   given new hypoxia, concerning for community acquired pneumonia. Patient
   reportedly had altered mental status. With leukocytosis, it is possible
   that the patient has meningitis or encephalitis. Though clinically
   patient has no meningeal signs. This is likely a chronic elevation.
   Would consider hematologic work up if culture data negative. From
   looking at rehab records, patient has had chronic leukocytosis and was
   going to be set up with heme at [**Hospital1 **] [**Location (un) 3**].
   -blood cultures
   -UA, urine culture
   -d/c foley catheter
   -repeat CXR in AM
   -continue Vanc, Ceftriaxone for community acquired pneumonia.
   .
   3. Hypoxia: CTA negative for PE. CT chest does not show infiltrates,
   however given leukocytosis and hypoxia, would strongly consider
   community acquired pneumonia. Influenza swab performed in ED is
   negative. Lactate of 2.3 likely from increased work of breathing. EKG
   unchanged from baseline.
   -Vancomycin and Ceftriaxone for CA pneumonia
   -supplemental oxygen as needed
   -repeat CXR in AM
   -repeat lactate in AM
   -rule out MI -1st set negative
   4. Gait disorder: Patient recently slipped from her bed at rehab.  She
   has a known pubic rami fracture, seen on CT today.  She has seen
   orthopedics as an outpatient.
   -weight bearing as tolerated.
   -fall precautions
   .
   # h/o Depression: continue mirtazapine per outpatient regimen
   .
   # FEN: IVFs / replete lytes prn / NPO for now. Consider heart healthy
   diet in the AM if mental status improves.
   # PPX:  heparin SQ, bowel regimen
   # ACCESS: PIV x2
   # CODE: DNR/DNI  -confirmed with HCP
   # CONTACT:  Daughter [**Name (NI) **] [**Name (NI) 4951**] (HCP) cell [**Telephone/Fax (1) 10043**].
   # DISPO: ICU
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2160-10-11**] 03:04 AM
   20 Gauge - [**2160-10-11**] 03:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2160-10-11 10:01:00 Physician Attending Progress Note
Chief Complaint: hypoxemia, TIA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] yo F with a history of multiple TIAs on aggrenox, admitted with
   likely recurrent TIA, triaged to MICU overnight for transient
   hypoxemia.
   24 Hour Events:
   On ED presentation, all neuro symptoms had resolved prior to initial
   Neuro eval. Prior to ED presentation pt had been 100% RA. Per
   housestaff, there was transient hypoxemia with O2 sats down to 80s on
   RA, recovered with nasal cannula. Since admission no recurrent
   hypoxemia noted.
   History obtained from Patient, Family / [**Hospital 216**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Labetalol - [**2160-10-11**] 06:00 AM
   Other medications:
   CTX, vancomycin, Latanoprost, Tylenol, [**Last Name (LF) 10050**], [**First Name3 (LF) 119**], simvastatin,
   Hep sc, Tums, Lisinopril
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-10-11**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.9
C (96.6
   HR: 62 (56 - 78) bpm
   BP: 176/68(93) {137/44(68) - 219/86(115)} mmHg
   RR: 29 (13 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SA (Sinus Arrhythmia)
             Total In:
                                                                  1,000 mL
                                                                    145 mL
   PO:
             50 mL
   TF:
   IVF:
                                                                  1,000 mL
                                                                     95 mL
   Blood products:
   Total out:
                                                                    840 mL
                                                                    145 mL
   Urine:
                                                                    840 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    160 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed, alert but oriented x 0
   Labs / Radiology
   10.7 g/dL
   283 K/uL
   100 mg/dL
   0.9 mg/dL
   28 mEq/L
   4.1 mEq/L
   14 mg/dL
   99 mEq/L
   137 mEq/L
   33.7 %
   11.2 K/uL
        [image002.jpg]
                            [**2160-10-10**]  10:13 PM
                            [**2160-10-11**]  03:58 AM
   WBC
   11.2
   Hct
   33.7
   Plt
   283
   Cr
   0.9
   TropT
   0.10
   0.08
   Glucose
   100
   Other labs: PT / PTT / INR:12.1/26.8/1.0, CK / CKMB /
   Troponin-T:88/7/0.08, Differential-Neuts:57.1 %, Lymph:37.3 %, Mono:3.7
   %, Eos:1.6 %, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:4.3 mg/dL
   Fluid analysis / Other labs: TSH pending
   Imaging: CT Torso- No PE, L pubic ramus fx, cholelithiasis, thyroid
   nodules, pulmonary nodules, and chronic LL scar vs infiltrate?, R lung
   deformity also longstanding
   RUQ US: Cholelithiasis. No GB wall edema
   CT Head: No acute intracranial abnormality
   EKG:  NSR @ 62 bpm. LVH. LAD. TWI in V4-V6, I, aVL. Q waves in aVL.
   CXR (my read): Severely rotated. Possible RLL infiltrate, though this
   is a poor quality study.
   Microbiology: Cx pending
   Assessment and Plan
   [**Age over 90 **] yo F with a history of multiple TIAs on aggrenox, admitted with
   likely recurrent TIA, triaged to MICU overnight for transient
   hypoxemia, which has had an unremarkable evaluation so far
   1. Probable TIA- DDx also includes infxn (systemic or CNS, both
   unlikely) and seizure
   -Neuro following, will touch base re: cont'd tx for infxn and recurr
   TIAs and further testing, including possible MRI/A and EEG as well as
   echo
   -cont Aggrenox and statin
   -cont vanco and CTX till discussion w/ Neuro; I favor 48-72 hrs empiric
   tx and discontinuation if no continued supporting evidence
   2. [**Name (NI) 10051**] unclear etiology and CTA chest without apparent new
   findings and no symptoms
   -stable on RA
   -cont to monitor
   3. Hypertension- cautious control of BP in the setting of TIAs
   -lisinopril resumed; will monitor
   4. L pubic ramus fracture
   -have ortho evaluate her in the AM
   -fall precautions
   -restrict OOB activity til Ortho and PT eval given falls at [**Hospital1 **]
   ICU Care
   Nutrition:
   Comments: cautious initiation of PO diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2160-10-11**] 07:53 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 45 minutes
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.  PMH, SH, FH and ROS are
   unchanged from admission except where noted above. Admission ROS
   reviewed and unchanged. Additionally, no rashes.
    CC: hypoxemia
   Admitted with recurrent TIA, transient hypoxemia but normoxemic since
   in MICU.
    100% on RA.
   Appears well. Bibasilar crackles with good air movement. No edema.
   Responds to voice. No rash.
   Agree with plan as outlined in above notes by Dr [**Last Name (STitle) 4052**] and ICU
   resident.
   Safe for transfer out of MICU.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2160-10-11**] 18:13 ------